US06384065B1
In 7 ml of N,N-dimethylformamide was added 0.70 g of 3-[2-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid. After adding 0.14 ml of ethyl iodide and 0.25 g of anhydrous potassium carbonate at 0-5° C., the resulting mixture was stirred at ambient temperature for 3 hours. The resulting mixture was poured into a mixture of ice water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Thus, 0.70 g of ethyl 3-[2-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionate was obtained as a light yellow oily product.

reactant | 3-[2-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid | 0.70 g | C(C)(C)(C)OC(CC1SC2(N(C1=O)CCC(=O)O)CCC(CC2)=CCC(C)C)=O | C22H35NO5S
reactant | ethyl iodide | 0.14 ml | C(C)I | C2H5I
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[2-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionate | 0.70 g | C(C)(C)(C)OC(CC1SC2(N(C1=O)CCC(=O)OCC)CCC(CC2)=CCC(C)C)=O | C24H39NO5S
